US07351849B2
To a solution of 3-crotonoyl-1,3-oxazolidin-2-one (155 mg, 1.0 mmol) in toluene (3 ml) in a stream of nitrogen was added Pd((R)-binap)(H2O)2(OTf)2 (26.6 mg, 0.025 mmol), and the resulting mixture was cooled to 0° C. Aniline (0.11 ml, 1.2 mmol) was added to the mixture, and to the solution was added slowly methanesulfonic acid (0.039 ml, 0.6 mmol). Then, the cooling ice-bath was removed and the reaction mixture was reacted at room temperature for 15 hours with stirring. After completion of the reaction, the solvent was evaporated off, and the crude product obtained was purified by a silica gel column chromatography (hexane:ethyl acetate=1:1) to give the objective compound 3-(3-phenylaminobutyryl)-oxazolidin-2-one (58 mg, 23% yield). Enantiomeric excess ratio of this product was determined by a liquid chromatography using a column for separation of optical isomers (column: AD-H) to be 78% e.e.

reactant | 3-crotonoyl-1,3-oxazolidin-2-one | 1.0 mmol, 155 mg | C(\C=C\C)(=O)N1C(OCC1)=O | C7H9NO3
reactant | Aniline | 1.2 mmol, 0.11 ml | NC1=CC=CC=C1 | C6H7N
reactant | methanesulfonic acid | 0.6 mmol, 0.039 ml | CS(=O)(=O)O | CH4O3S
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(3-phenylaminobutyryl)-oxazolidin-2-one | 58 mg, 23% yield | C1(=CC=CC=C1)NC(CC(=O)N1C(OCC1)=O)C | C13H16N2O3
